US04578498
13.5 g of E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzonitrile in a mixture of 200 ml of ethanol and 200 ml of 10N sodium hydroxide solution were heated at the boil for 3 hours. The mixture was then cooled, after which it was poured onto 1 liter of water, and the colorless precipitate was filtered off under suction and dried to give 14.9 g of E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzoic acid of melting point 204°-206° C. (cf. Example 2).

reactant | E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzonitrile | 13.5 g | C\C(=C/C1=CC=C(C#N)C=C1)\C1=C(C=C2C(CCC(C2=C1)(C)C)(C)C)C | C25H29N
reactant | water | 1 liter | O | H2O
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 10N, 200 ml | [OH-].[Na+]
product | E-4-[2-methyl-2-(1,1,4,4,6-pentamethyl-1,2,3,4-tetrahydronaphth-7-yl)-vinyl]-benzoic acid | 14.9 g | C\C(=C/C1=CC=C(C(=O)O)C=C1)\C1=C(C=C2C(CCC(C2=C1)(C)C)(C)C)C | C25H30O2
